US03996352
Preparation of O-[2-(4-Methyl-2-pyridylamino)-2-ketoethyl] O-(3,4-Dichlorophenyl) Methylphosphonate
N-(4-Methyl-2-pyridyl)-α-chloroacetamide (18.5 grams), potassium O-(3,4-dichlorophenyl) methylphosphonate (29.5 grams) and acetone (150 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is stirred and heated at reflux for a period of about 18 hours. After this time the reaction mixture is cooled, filtered and stripped of acetone on a steam bath to yield a residue. The residue is extracted with chloroform and the chloroform solution is washed with water. The washed solution is dried over magnesium sulfate, is filtered and evaporated to yield the desired product O-[2-(4-methyl-2-pyridylamino)-2-ketoethyl] O-(3,4-dichlorophenyl) methylphosphonate as the residue.

reactant | N-(4-Methyl-2-pyridyl)-α-chloroacetamide | 18.5 grams | CC1=CC(=NC=C1)NC(CCl)=O | C8H9ClN2O
reactant | potassium O-(3,4-dichlorophenyl) methylphosphonate | 29.5 grams | CP(OC1=CC(=C(C=C1)Cl)Cl)([O-])=O.[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | O-[2-(4-methyl-2-pyridylamino)-2-ketoethyl] O-(3,4-dichlorophenyl) methylphosphonate | CP(OCC(=O)NC1=NC=CC(=C1)C)(OC1=CC(=C(C=C1)Cl)Cl)=O | C15H15Cl2N2O4P
